US04443448
To a solution of 40 grams of 3-(2-bromo-4-trifluoromethylphenyl)-3-(4'-fluorophenyl)-propanoic acid in 750 milliliters of dry diethylether were added dropwise 90 milliliters of butyllithium (20% in hexane). The temperature was kept between -2 and -5 degrees Centigrade, and the addition time was about 10 minutes. The reaction mixture was stirred at zero degrees Centigrade for 11/2 hours; and then 400 milliliters of 2 N hydrochloric acid were added. The orgranic phase was separated and extracted twice with a 10% solution of sodium carbonate in water, then washed with water and dried over anhydrous potassium carbonate. After filtration and evaporation there was obtained 23 grams of crude 3-(4'-fluorophenyl)-6-trifluoromethyl-1-indanone. The oil was distilled in vacuo, and there was obtained 17 grams (57%) of pure 3-(4'-fluorophenyl)-6-trifluoromethyl-1-indanone boiling at 140 degrees Centigrade /0.2 mmHg.

reactant | 3-(2-bromo-4-trifluoromethylphenyl)-3-(4'-fluorophenyl)-propanoic acid | 40 grams | BrC1=C(C=CC(=C1)C(F)(F)F)C(CC(=O)O)C1=CC=C(C=C1)F | C16H11BrF4O2
reactant | butyllithium | 90 milliliters | C(CCC)[Li]
reactant | hydrochloric acid | 2 N, 400 milliliters | Cl | ClH
solvent | diethylether | 750 milliliters | C(C)OCC | C4H10O
product | 3-(4'-fluorophenyl)-6-trifluoromethyl-1-indanone | 23 grams | FC1=CC=C(C=C1)C1CC(C2=CC(=CC=C12)C(F)(F)F)=O | C16H10F4O
